US04787930
19.3 g (0.05 mol) of 5-acetamido-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole are heated under reflux in a mixture of 40 ml of 37 percent strength hydrochloric acid and 70 ml of ethanol for 7 hours. The reaction mixture is freed from the ethanol in vacuo. 35 ml of water are added to the residue and the mixture is neutralized with dilute sodium hydroxide solution. The precipitate is filtered off with suction, washed with water and dried in vacuo. 15.7 g (91.4% of theory) of 5-amino-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole of melting point 123° C.-126° C. are obtained.

reactant | 5-acetamido-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 0.05 mol, 19.3 g | C(C)(=O)NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)[N+](=O)[O-] | C12H5F7N4O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 70 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 35 ml | O | H2O
product | 5-amino-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 15.7 g, 91.4% | NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)[N+](=O)[O-] | C10H3F7N4O2
